US05849735
N-[5-[(9,10-Dihydro-4H-thieno[2,3-c][1]benzazepin-9-yl)carbonyl]-2-pyridinyl]-5-fluoro-2-methylbenzamide
As described for Example 1, 9,10-dihydro-4-H-thieno[2,3-c][1]benzazepine in dichloromethane, in the presence of triethylamine is reacted with 6-[(5-fluoro-2-methylbenzoyl)amino]pyridine-3-carbonyl chloride to give the product as a non-crystalline yellow solid.

reactant | 9,10-dihydro-4-H-thieno[2,3-c][1]benzazepine | S1C=CC2=C1CNC1=C(C2)C=CC=C1 | C12H11NS
reactant | triethylamine | C(C)N(CC)CC | C6H15N
reactant | 6-[(5-fluoro-2-methylbenzoyl)amino]pyridine-3-carbonyl chloride | FC=1C=CC(=C(C(=O)NC2=CC=C(C=N2)C(=O)Cl)C1)C | C14H10ClFN2O2
solvent | dichloromethane | ClCCl | CH2Cl2
product | N-[5-[(9,10-Dihydro-4H-thieno[2,3-c][1]benzazepin-9-yl)carbonyl]-2-pyridinyl]-5-fluoro-2-methylbenzamide | S1C=CC2=C1CN(C1=C(C2)C=CC=C1)C(=O)C=1C=CC(=NC1)NC(C1=C(C=CC(=C1)F)C)=O | C26H20FN3O2S
